US09193720B2
The isobutylene gas was bubbled into a nitrogen purged, cooled (0° C.) solution of (2S)-isopropyl 2-(5-bromo-4-(3-cyclopropylpyrrolidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-hydroxyacetate (525 mg, 1.28 mmol) and 0.15 mL of 70% HClO4 in DCM (10 mL) for 20 min. The reaction mixture was allowed to warm to rt and stirred for 18 h in a pressure sealed vessel, diluted with DCM, washed with 1M Na2CO3 solution, and dried over MgSO4. The crude product was charged (DCM) to a 40 g ISCO silica gel cartridge and gradient elution (5-35% EtOAc/hexanes) using an Isolera chromatography station gave (2S)-isopropyl 2-(5-bromo-4-(3-cyclopropylpyrrolidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate 264 mg (44%) as a mixture of diastereomers. 1H NMR (500 MHz, DMSO-d6) δ 5.92/5.87 (s, 1H), 4.91-4.85 (m, 1H), 3.47/3.27 (br. s, 1H), 3.17-3.10 (m, 2H), 2.94-2.91 (m, 1H), 2.52 (s, 3H), 2.41 (s, 3H), 2.16/2.07 (br. s., 1H), 1.86-1.77 (m, 2H), 1.15-1.12 (m, 12H), 1.06-1.03 (m, 3H), 0.92-0.87/0.80-0.78 (m, 1H), 0.47-0.37 (m, 2H), 0.19-0.10 (m, 2H). UPLC (M+H)=469.3.

reactant | (2S)-isopropyl 2-(5-bromo-4-(3-cyclopropylpyrrolidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-hydroxyacetate | 1.28 mmol, 525 mg | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OC(C)C)O)N1CC(CC1)C1CC1 | C19H27BrN2O3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (2S)-isopropyl 2-(5-bromo-4-(3-cyclopropylpyrrolidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate | 264 mg, 44% | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OC(C)C)OC(C)(C)C)N1CC(CC1)C1CC1 | C23H35BrN2O3
